US06130234
4-(3-(Trifluoromethyl)phenyl)-3-hydroxy-1-(4-phenyl-3-butynyl)piperidine
A mixture of 1-mesyl-4-phenylbut-3-yne (352 mg, 1.57 mmol), 4-(3-(trifluoromethyl)phenyl)piperidin-3-ol hydrochloride (530 mg, 1.88 mmol) and K2CO3 (542 mg, 3.93 mmol) in 20 mL of CH3CN is refluxed for 12 hr. The mixture is filtered and washed with EtOAc (3×20 mL). The filtrate is evaporated in vacuo and is purified by flash chromatography to give the product as an off white solid (120 mg, 21%): mp 77-79° C.; 1H NMR (CDCl3) 1.71 (m, 2 H), 2.15 (m, 3 H), 2.40 (bs, 1 H), 2.62 (m, 4 H), 2.72 (m, 1 H), 2.83 (m, 2 H), 7.27-7.81 (m, 9 H).

reactant | 1-mesyl-4-phenylbut-3-yne | 1.57 mmol, 352 mg | S(=O)(=O)(C)CCC#CC1=CC=CC=C1 | C11H12O2S
reactant | 4-(3-(trifluoromethyl)phenyl)piperidin-3-ol hydrochloride | 1.88 mmol, 530 mg | Cl.FC(C=1C=C(C=CC1)C1C(CNCC1)O)(F)F
reactant | K2CO3 | 3.93 mmol, 542 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 4-(3-(Trifluoromethyl)phenyl)-3-hydroxy-1-(4-phenyl-3-butynyl)piperidine | 120 mg, 21% | FC(C=1C=C(C=CC1)C1C(CN(CC1)CCC#CC1=CC=CC=C1)O)(F)F | C22H22F3NO
